2156-03-24 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Hypotensive in the low 90s, received 3 boluses 500cc NS with BP's
   maintained in low 100s, mentating well throughout. Initially UOP <50cc,
   then incontinent of urine. Catheter has now been placed.
   Blood Cx from ED with 2/4 bottles growing GNRs.
   DC'd flagyll, started on zosyn.
   cdiff negative, resumed suppression dose p.o vanc.
   Diarrhea x 1, O and P, stool Cx sent.
   O: no CP, no abd pain, no nausea, vomiting, no light headedness, no
   palpitations.
   Allergies:
   Ticlid (Oral) (Ticlopidine Hcl)
   melena;
   Lipitor (Oral) (Atorvastatin Calcium)
   hx of causing g
   Last dose of Antibiotics:
   Metronidazole - [**2156-3-24**] 01:03 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-3-24**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**58**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 34.7
C (94.5
   HR: 101 (55 - 103) bpm
   BP: 103/61(71) {86/48(59) - 105/65(74)} mmHg
   RR: 16 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,100 mL
                                                                  3,050 mL
   PO:
                                                                    100 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,000 mL
                                                                    600 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    900 mL
   Urine:
   100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,100 mL
                                                                  2,150 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///18/
   Physical Examination
   GEN: comfortable, pale
   NC/AT/OPC
   CVS: RRR, Split S2, seems to disappear with inspiration
   Abd: +bs, soft, mildly tense, no rebound, ? involuntary guarding.
   Ext: cool, DP/PT dopplerable, no edema, no JVP, poor cap refill.
   Labs / Radiology
   182 K/uL
   10.1 g/dL
   217 mg/dL
   1.9 mg/dL
   18 mEq/L
   4.7 mEq/L
   42 mg/dL
   111 mEq/L
   142 mEq/L
   31.8 %
   20.0 K/uL
        [image002.jpg]
                             [**2156-3-23**]  10:56 PM
                             [**2156-3-24**]  04:54 AM
   WBC
   20.0
   Hct
   30.0
   31.8
   Plt
   182
   Cr
   1.9
   TropT
   4.12
   Glucose
   217
   Other labs: PT / PTT / INR:15.0/26.5/1.3, CK / CKMB /
   Troponin-T:529/50/4.12, ALT / AST:194/345, Alk Phos / T Bili:128/0.4,
   Amylase / Lipase:224/, Lactic Acid:3.6 mmol/L, Albumin:3.7 g/dL,
   LDH:459 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
   Patient is a  83 y/o M w PAF, CAD s/p CABG/PCI and chronic C. diff
   infection who p/w hypotension, a. fib with RVR, and leukocytosis c/w
   sepsis initially thought to be c.diff related, now with GNR
s growing.
   Also has continued risk troponins with ? cardiac component.
   .
   #. Sepsis: volume resuscitated with 3.5LNS since admission with BPs
   stable in low 100s systolic,mentating well and good UOP. Although
   lactate is rising. Likely secondary to GNR colitis. LFTs not consistent
   with biliary source with AP wnl. Urine source possible.
   CT abdomen with p.o contrast.
   Continue zosyn IV, f/u s/s. Broaden if deteriorates.
   Surveillance blood cultures.
   Check Urine Cx
   Trend lactate
   MaintenanceIVF.
   - Continue suppression dose vanc (? Set of 3 c.diff)
   f/u O and P, fecal leukococytes, stool cx.
   .
   # Rythm : hx paroxysmal afib. Presented with afib, hemodynamically
   unstable, cardioverted now with slow VT, although
   Rate has been in 80s to 90s, 50s in sleep.  This episode Afib likely
   elicited by sepsis. Will treat infection, if continued afib, may
   consider antiarrythmic/amniodorone to prevent future decompensation
   with afib.
   Continue to hold home lopressor for now.
   CHADS score 2 with prior anticoagulation with warfarin however hx
   hemoperitoneum/fall risk.
   Continue ASA 81
   -continue telemetry.
   .
   #. Coronaries : CAD s/p CABG in [**2135**] with LIMA to LAD which is totally
   occluded after D1,  SVG-D1 (stent in graft), SVG-OM (chronically
   occluded), with most recent PCI in [**5-26**] with stenting Lcx, s/p hip
   replacement. EKG shows Afib with aberrancy, slow VT s/p cardioversion.
   Also troponins continue to elevate although CK-MB peaked. Etiology
   troponin leak is
    Likely hypotension [**2-24**] sepsis and Afib with demand ischemia in the
   setting of fixed coronary lesions.
   .Also has elevated LFTs with AST >ALT suggesting non liver source, may
   be hypotension, cardiac related.
   -check lipase
   -trend LFTs
   -d/c serial CE.
   -Increase ASA to 325.
   -am EKG
   -HCT (baseline(25-30).
   Anemia: Chronic normocytic anemia (MCV 92).near or above baseline, has
   a history of chronic anemia of unknown origin requiring multiple
   transfusions, no active issues. HCT stable currently.
   Consider transfusing for HCT <25 or if HD unstable, symptomatic.
   -type and cross.
   -[**Hospital1 **] HCT checks.
   -guiac all stools
   .
   # Diarrhea: Patient has a history of C. diff infection x 5 years, per
   patient with worsened diarrhea over last several days.
   Cdiff x 1 negative, GNRs in blood most likely from GI translocation
   ,possibly secondary to bowel ischemia due to hypotension.
   Continue zosyn, broaden if necessary.
   f/u O and P, leukocytes
   KUB this am
   Abdominal CT with p.o contrast.
   Check lipase.
   .
   # Gap Acidosis: Lactate worsened.
    Continue IVF, abx.
   Trend lactate.
   ICU Care
   Nutrition: NPO for now, resume diet after abdominal CT.
   Glycemic Control:  none
   Lines: PIVs x 2.
   18 Gauge - [**2156-3-23**] 10:29 PM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Daughter [**First Name4 (NamePattern1) 11746**]
   [**Last Name (NamePattern1) 66**] status: DNR. Ok to intubate.
   Disposition: ICU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   Likely infection with secondary ischemia and atrial fibrillation and
   NSVT
   cardioverted to sr
   Work up infection and consider amiodarone for recurrent arrhythmai
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Name (NI) **]
   on:[**2156-3-24**] 10:57 ------

2156-03-25 06:45:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   - CT abd/pelvis w/o contrast showed bilateral pleural effusions with
   associated bibasilar consolidation (atelectasis vs.
   infection/aspiration), bilateral inguinal hernias containing
   non-obstructed colon, hiatal hernia, cholelithiasis.
   - changed zosyn to cipro/flagyl
   - advanced diet
   - urine lytes -> FeNa 0.5
   - lactate improving
   - more blood cx growing out GNR's
   - increased cefepime to 2 gm q24
   - had some tachycardia, gave 12.5 mg metoprolol tartrate, started amio
   Allergies:
   Ticlid (Oral) (Ticlopidine Hcl)
   melena;
   Lipitor (Oral) (Atorvastatin Calcium)
   hx of causing g
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-3-24**] 08:00 AM
   Cefipime - [**2156-3-25**] 12:00 AM
   Metronidazole - [**2156-3-25**] 06:00 AM
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-3-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-3-25**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**58**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 125 (62 - 125) bpm
   BP: 117/79(88) {95/42(55) - 122/82(95)} mmHg
   RR: 26 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 64 kg (admission): 61.8 kg
             Total In:
                                                                  5,000 mL
                                                                    285 mL
   PO:
                                                                  1,800 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    950 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    200 mL
   Urine:
                                                                    500 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,700 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///16/
   Physical Examination
   GEN: NAD
   HEENT: NC/AT.
   CV: RRR, normal s1, widely split S2. No M/G/R.
   Abd: +bs, soft, mildly tense, no rebound or tenderness but patient will
   not relax abdominal muscles.
   Ext: WWP. No edema.
   Neuro: A+Ox3. CN II-XII intact.
   Labs / Radiology
   166 K/uL
   9.9 g/dL
   176 mg/dL
   1.5 mg/dL
   16 mEq/L
   4.1 mEq/L
   43 mg/dL
   112 mEq/L
   140 mEq/L
   29.7 %
   15.4 K/uL
        [image002.jpg]
                             [**2156-3-23**]  10:56 PM
                             [**2156-3-24**]  04:54 AM
                             [**2156-3-24**]  02:39 PM
                             [**2156-3-25**]  04:29 AM
   WBC
   20.0
   15.4
   Hct
   30.0
   31.8
   27.8
   29.7
   Plt
   182
   166
   Cr
   1.9
   1.5
   1.5
   TropT
   4.12
   Glucose
   [**Telephone/Fax (3) 11756**]
   Other labs: PT / PTT / INR:15.0/28.3/1.3, CK / CKMB /
   Troponin-T:529/50/4.12, ALT / AST:150/167, Alk Phos / T Bili:111/0.4,
   Amylase / Lipase:224/15, Differential-Neuts:92.2 %, Lymph:5.8 %,
   Mono:1.8 %, Eos:0.2 %, Lactic Acid:1.5 mmol/L, Albumin:3.7 g/dL,
   LDH:388 IU/L, Ca++:9.1 mg/dL, Mg++:2.6 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 .H/O C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE)
   Patient is a  83 y/o M w PAF, CAD s/p CABG/PCI and chronic C. diff
   infection who p/w hypotension, a. fib with RVR, and leukocytosis c/w
   sepsis initially thought to be c.diff related, now with GNR
s growing.
   .
   #. Sepsis/Bacteremia: Volume-resuscitated with BPs stable in low 100s
   systolic, mentating well and good UOP. Lactate resolved. Likely urinary
   source. In setting of diarrhea, Ddx would include bacterial
   translocation from gut, although CT abdomen with p.o contrast showed no
   source of infection.  U/A with lots of WBC.  UCx pending.  Positive
   blood cultures x 3.
   -Continue cefepime/flagyl
   -f/u blood and urine cultures
   -IVF boluses PRN
   -Continue PO vanc for chronic C. diff (although C. diff toxin negative
   x 2 and no e/o colitis on CT)
   -f/u O and P, fecal leukococytes, stool cx.
   .
   # Rhythm : hx paroxysmal afib. Presented with afib, hemodynamically
   unstable, cardioverted to slow VT, then to Afib. Rate went up to 120s
   overnight, with BP stable, controlled with metoprolol, with amiodarone
   added.  This episode Afib likely elicited by sepsis.
   -treat infection as above
   -change amiodarone to PO
   -CHADS score 2 with prior anticoagulation with warfarin however hx
   hemoperitoneum/fall risk.
   -Continue ASA 81
   -continue telemetry
   .
   #. Coronaries : CAD s/p CABG in [**2135**] with LIMA to LAD which is totally
   occluded after D1,  SVG-D1 (stent in graft), SVG-OM (chronically
   occluded), with most recent PCI in [**5-26**] with stenting Lcx, s/p hip
   replacement. EKG shows Afib with aberrancy, slow VT s/p cardioversion.
   Also troponins continue to elevate although CK-MB peaked. Etiology
   troponin leak is likely hypotension [**2-24**] sepsis and Afib with demand
   ischemia in the setting of fixed coronary lesions. CK peaked at 50 on
   [**2156-3-24**].
   -Continue ASA 325 daily.
   .
   #. Anemia: HCT (baseline(25-30).  Chronic normocytic anemia (MCV
   92).near or above baseline, has a history of chronic anemia of unknown
   origin requiring multiple transfusions, no active issues. HCT stable
   currently. Consider transfusing for HCT <25 or if HD unstable,
   symptomatic.
   -maintain active type and screen
   -daily Hct
   -guiac all stools
   .
   # Diarrhea: Patient has a history of C. diff infection x 5 years, per
   patient with worsened diarrhea over last several days.
   Cdiff x 1 negative, GNRs in blood most likely from urine source,
   although Ddx includes gut translocation.  CT Abd/pelvic without
   evidence of infection.
   -Continue vancomycin as above.
   -f/u O and P, leukocytes
   .
   # Gap Acidosis: Gap closed. Had lactic acidosis in setting of sepsis.
   Now with hyperchloremic non-gap acidosis likely related to diarrhea +
   IVF
   -bolus with LR rather than saline if needs fluid bolus
   ICU Care
   Nutrition: cardiac, heart-healthy diet.
   Glycemic Control:  Patient will need insulin sliding scale as he has
   been hyperglycemic on chem. 7.
   Lines: PIVs x 2.
   18 Gauge - [**2156-3-23**] 10:29 PM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Daughter [**First Name4 (NamePattern1) 11746**]
   [**Last Name (NamePattern1) 66**] status: DNR. Ok to intubate.
   Disposition: call out to medicine